US04782010
1. Preparation of 10-(3,5-di-t-butyl-4-hydroxybenzoyl)3,7-diethylaminophenoxazine
A solution containing 4.29 g of 10-benzoyl-3,7-diethylaminophenoxazine in 15 ml of tetrahydrofuran was added to 26 ml of 1M lithium triethylborohydride in tetrahydrofuran. After the addition was complete, the mixture was stirred for one hour. To this was added, over 15 minutes, 3.1 grams of 4-hydroxy-3,5-di-t-butylbenzoyl chloride. The mixture was stirred for one hour. Water was added and the product extracted into ethyl acetate. The solvent was removed and the product filtered through a pad of silica gel, and eluted with 1:3 ethyl acetate-hexane. Additional chromatography over alumina and elution with 1:4 ethyl acetate-hexane followed by recrystallization from etherhexane and finally from methanol gave 0.6 gm of the color forming developer.

reactant | 10-benzoyl-3,7-diethylaminophenoxazine | 4.29 g | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2OC=2C=C(C=CC12)NCC)NCC | C23H23N3O2
reactant | lithium triethylborohydride | 1M, 26 ml | C(C)[BH-](CC)CC.[Li+]
reactant | 4-hydroxy-3,5-di-t-butylbenzoyl chloride | 3.1 grams | OC1=C(C=C(C(=O)Cl)C=C1C(C)(C)C)C(C)(C)C | C15H21ClO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 10-(3,5-di-t-butyl-4-hydroxybenzoyl)3,7-diethylaminophenoxazine | C(C)(C)(C)C=1C=C(C(=O)N2C3=CC=C(C=C3OC=3C=C(C=CC23)NCC)NCC)C=C(C1O)C(C)(C)C | C31H39N3O3
